US05262420
Preparation of 1-(4-t-butylphenyl)-3-(4-pyridyl)propane
In a flask, 5.6 g (41.9 mmol) of anhydrous aluminum chloride and 6 ml of dried nitromethane were placed and the mixture was cooled on ice salt bath. A solution of 3.5 g (17.8 mmol) of 1-phenyl-3-(4-pyridyl)-propane dissolved in nitromethane was added thereto, stirred for 30 minutes and a solution of 4.2 g (19.1 mmol) of 2,6-di-t-butyl-p-cresol dissolved in nitromethane was added dropwise. After stirring for one hour at not higher than 0° C., the ice bath was removed and stirred for one hour at room temperature. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate. After drying over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure and the resulting oily substance was purified by silica gel column chromatography to obtain 3.85 g of the desired compound (yield: 85.7%).

reactant | aluminum chloride | 41.9 mmol, 5.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-phenyl-3-(4-pyridyl)-propane | 17.8 mmol, 3.5 g | C1(=CC=CC=C1)CCCC1=CC=NC=C1 | C14H15N
reactant | 2,6-di-t-butyl-p-cresol | 19.1 mmol, 4.2 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 6 ml | [N+](=O)([O-])C | CH3NO2
product | 1-(4-t-butylphenyl)-3-(4-pyridyl)propane | 3.85 g, yield: 85.7% | C(C)(C)(C)C1=CC=C(C=C1)CCCC1=CC=NC=C1 | C18H23N
